US08053438B2
1-(4-(3-(4-(BENZO[D]THIAZOL-2-YLAMINO)PHENOXY)PYRAZIN-2-YL)PIPERIDIN-1-YL)ETHANONE
The mixture of 4-(benzo[d]thiazol-2-ylamino)phenol (91 mg, 0.38 mmol), 1-(4-(3-fluoropyrazin-2-yl)piperidin-1-yl)ethanone (56 mg, 0.25 mmol), and cesium carbonate (123 mg, 0.38 mmol) in DMSO (0.85 mL) was heated at 80° C. for 16 h. After cooling to RT, the reaction mixture was partitioned between Teac and brine. The aqueous layer was back extracted with Teac (2×) and the combined organic layer was dried (Na2SO4) and concentrated. The crude material was purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 100% Teac in hexane, then 3% MeOH in Teac, followed by reverse-phase preparative HPLC using a Germini C18 5 uM column, 0.1% TFA in CH3CN/H2O, gradient 10% to 100% over 15 min, then neutralize with Si carbonate resin, to provide 1-(4-(3-(4-(benzo[d]thiazol-2-ylamino)phenoxy)pyrazin-2-yl)piperidin-1-yl) as a white solid. MS (ESI, pos. ion) m/z: 445.9 (M+1). IC50 (uM) +++++.

reactant | 4-(benzo[d]thiazol-2-ylamino)phenol | 0.38 mmol, 91 mg | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)O | C13H10N2OS
reactant | 1-(4-(3-fluoropyrazin-2-yl)piperidin-1-yl)ethanone | 0.25 mmol, 56 mg | FC=1C(=NC=CN1)C1CCN(CC1)C(C)=O | C11H14FN3O
reactant | cesium carbonate | 0.38 mmol, 123 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 0.85 mL | CS(=O)C | C2H6OS
product | 1-(4-(3-(4-(BENZO[D]THIAZOL-2-YLAMINO)PHENOXY)PYRAZIN-2-YL)PIPERIDIN-1-YL)ETHANONE | S1C(=NC2=C1C=CC=C2)NC2=CC=C(OC=1C(=NC=CN1)C1CCN(CC1)C(C)=O)C=C2 | C24H23N5O2S
